US08048909B2
Methyl 3-[(4-{[(tert-butoxycarbonyl)(methyl)amino]methyl}-2-phenyl-1H-pyrrol-1-yl)sulfonyl]benzoate
Using methyl 3-({4-[(methylamino)methyl]-2-phenyl-1H-pyrrol-1-yl}sulfonyl)benzoate (577 mg) and di-tert-butyl dicarbonate (393 mg), a procedure as in Reference Example 55 was performed to give the title compound as a colorless oil (yield 710 mg, 98%).

reactant | methyl 3-({4-[(methylamino)methyl]-2-phenyl-1H-pyrrol-1-yl}sulfonyl)benzoate | 577 mg | CNCC=1C=C(N(C1)S(=O)(=O)C=1C=C(C(=O)OC)C=CC1)C1=CC=CC=C1 | C20H20N2O4S
reactant | di-tert-butyl dicarbonate | 393 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | Methyl 3-[(4-{[(tert-butoxycarbonyl)(methyl)amino]methyl}-2-phenyl-1H-pyrrol-1-yl)sulfonyl]benzoate | yield 710 mg, 98% | C(C)(C)(C)OC(=O)N(C)CC=1C=C(N(C1)S(=O)(=O)C=1C=C(C(=O)OC)C=CC1)C1=CC=CC=C1 | C25H28N2O6S
